US05977139
Combine (+)-1-(3,4,5-trimethoxybenzoyl)-3-(3,4-dichlorophenyl)-3-(2-acetoxyethyl)pyrrolidine (670 mg, 1.35 mmol) and aqueous lithium hydroxide solution (4.2 mL, 1M) in methanol (15 mL). After 3.5 hours, concentrate in vacuo to give a residue. Dissolve the residue in dichloromethane and extract with 1M hydrochloric acid solution and saturated sodium bicarbonate solution. Dry the organic layer over MgSO4, filter, and concentrate in vacuo to obtain a residue. The residue was dried under high vacuum for 18 hours to give (S)-1-(3,4,5-trimethoxybenzoyl)-3-(3,4-dichlorophenyl)-3-(2-hydroxyethyl)pyrrolidine: Rf =0.11 (silica gel, ethyl acetate).

reactant | (+)-1-(3,4,5-trimethoxybenzoyl)-3-(3,4-dichlorophenyl)-3-(2-acetoxyethyl)pyrrolidine | 1.35 mmol, 670 mg | COC=1C=C(C(=O)N2CC(CC2)(CCOC(C)=O)C2=CC(=C(C=C2)Cl)Cl)C=C(C1OC)OC | C24H27Cl2NO6
reactant | lithium hydroxide | 1M, 4.2 mL | [OH-].[Li+]
solvent | methanol | 15 mL | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (S)-1-(3,4,5-trimethoxybenzoyl)-3-(3,4-dichlorophenyl)-3-(2-hydroxyethyl)pyrrolidine | COC=1C=C(C(=O)N2C[C@@](CC2)(CCO)C2=CC(=C(C=C2)Cl)Cl)C=C(C1OC)OC | C22H25Cl2NO5
